US05760050
8-Methoxy-3-pyridin-3-ylmethyl-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one
Prepared by the procedure of Example 3 from 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one and 3-pyridinecarboxaldehyde. Yield 19%; mp 107°-110° C.

reactant | 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | COC=1C=CC2=C(C1)OC(C=1CNCCC12)=O | C13H13NO3
reactant | 3-pyridinecarboxaldehyde | N1=CC(=CC=C1)C=O | C6H5NO
product | 8-Methoxy-3-pyridin-3-ylmethyl-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | Yield 19% | COC=1C=CC2=C(C1)OC(C=1CN(CCC12)CC=1C=NC=CC1)=O | C19H18N2O3
